US08138197B2
3,5-Diethoxy-4-(isoxazol-4-yl)benzoic acid
Methyl 3,5-diethoxy-4-(isoxazol-4-yl)benzoate (91 mg) was dissolved in a mixed solvent of methanol/THF (8 mL, 3/5), aqueous 1 M NaOH solution (1.2 mL) was added to it, and stirred at room temperature for 5 hours. Aqueous 1 M HCl solution (1.2 mL) was added to it, and the solvent was concentrated under reduced pressure. The formed solid was taken out through filtration, washed with water, and dried under reduced pressure to obtain the title compound as a pale yellow solid.

reactant | Methyl 3,5-diethoxy-4-(isoxazol-4-yl)benzoate | 91 mg | C(C)OC=1C=C(C(=O)OC)C=C(C1C=1C=NOC1)OCC | C15H17NO5
reactant | HCl | 1 M, 1.2 mL | Cl | ClH
solvent | methanol THF | 8 mL | CO.C1CCOC1
solvent | NaOH | 1 M, 1.2 mL | [OH-].[Na+]
product | 3,5-Diethoxy-4-(isoxazol-4-yl)benzoic acid | C(C)OC=1C=C(C(=O)O)C=C(C1C=1C=NOC1)OCC | C14H15NO5
